US07384974B2
3.5 mL of phosphorus oxychloride was added dropwise to 4.5 mL of dimethylformamide under ice cooling, after which the system was brought up to room temperature and stirred for 30 minutes. To this was added a solution of 5.0 g of 5,7-dimethyltetralone in 100 mL of chloroform, and the system was refluxed under heating overnight. After the reaction, water was added and the system was stirred for 30 minutes, after which the organic layer was washed first with a saturated sodium hydrogencarbonate aqueous solution and then with saturated brine, dried with magnesium sulfate, and then subjected to reduced-pressure solvent distillation, and the residue was refined by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 5.8 g of 1-chloro-2-formyl-3,4-dihydronaphthalene in the form of a dark brown solid.

reactant | phosphorus oxychloride | 3.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 4.5 mL | CN(C=O)C | C3H7NO
reactant | 5,7-dimethyltetralone | 5.0 g | CC1=C2CCCC(C2=CC(=C1)C)=O | C12H14O
reactant | water | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-chloro-2-formyl-3,4-dihydronaphthalene | 5.8 g | ClC1=C(CCC2=CC=CC=C12)C=O | C11H9ClO
